US08455522B2
Step 3: synthesis of 5-Bromo-6-chloro-3-methyl-3H-benzooxazol-2-one
Iodomethane (0.579 ml . . . , 926 mmol) was added dropwise to a mixture of 5-bromo-6-chlorobenzo[d]oxazol-2(3H)-one (1.15 g, 4.63 mmol), potassium carbonate (1.599 g, 11.57 mmol) in DMSO (5 mL) at room temperature. The resulting mixture was stirred at this temperature for 18 h. Ethyl acetate (40 mL) was added and the mixture was stirred for 30 min and then filtered. The solution was washed with water (10 mL), brine (15 mL) and dried over Na2SO4. After filtration and concentration, a pale white solid was obtained (1.1 g). 1HNMR (400.342 MHz) δ 3.38 (s, 1H), 7.33 (s, 1H).

reactant | Iodomethane | 926 mmol, 0.579 ml | IC | CH3I
reactant | 5-bromo-6-chlorobenzo[d]oxazol-2(3H)-one | 4.63 mmol, 1.15 g | BrC=1C(=CC2=C(NC(O2)=O)C1)Cl | C7H3BrClNO2
reactant | potassium carbonate | 11.57 mmol, 1.599 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-Bromo-6-chloro-3-methyl-3H-benzooxazol-2-one | BrC=1C(=CC2=C(N(C(O2)=O)C)C1)Cl | C8H5BrClNO2
